US07576083B2
4-(Morpholin-4-ylcarbonyl)piperidine-4-carbonitrile hydrochloride (I-3)
To tert-Butyl 4-cyano-4-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (I-2) (11.95 g, 40 mmole) was added 4M HCl in dioxane (80 mL). The resulting reaction mixture was stirred for 1 h at room temperature. After this time, LCMS indicated that the reaction was complete. The reaction was concentrated to afford the title compound (I-3) as a white solid. This product was pure enough for next step reaction. Analytical LCMS: single peak (214 nm), 0.548 min.

reactant | tert-Butyl 4-cyano-4-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 40 mmole, 11.95 g | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)N1CCOCC1 | C16H25N3O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 4-(Morpholin-4-ylcarbonyl)piperidine-4-carbonitrile hydrochloride | Cl.N1(CCOCC1)C(=O)C1(CCNCC1)C#N | InChI=1S/C11H17N3O2.ClH/c12-9-11(1-3-13-4-2-11)10(15)14-5-7-16-8-6-14;/h13H,1-8H2;1H
